US07176242B2
3-Isopropenylbenzonitrile
To a stirred solution of 3-cyanophenylboronic acid (10.0 g, 68.05 mmol) dissolved in DME (340 mL) is added 2-bromopropene (6.86 g, 56.7 mmol), and sodium carbonate (62.3 mL of a 2 M solution in water, 124.7 mmol). The reaction mixture is degassed for 20 min with nitrogen. Tetrakis(triphenylphosphine)palladium(0) (2.54 g, 2.2 mmol) is added, the reaction mixture degassed for 10 min, and heated at reflux overnight. The reaction mixture is cooled to room temperature and then partitioned between hexanes and water. The aqueous layer is extracted with hexanes (3×75 mL). The combined organic layers are washed with brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (9:1 hexanes/ethyl acetate) provides the title compound. 1H NMR (300 MHz, DMSO-d6) δ 7.96 (m, 1H), 7.85 (d, J=8 Hz, 1H), 7.75 (d, J=8 Hz, 1H), 7.56 (m, 1H) 5.58 (s, 1H), 5.23 (m, 1H), 2.13 (s, 3H).

reactant | 3-cyanophenylboronic acid | 68.05 mmol, 10.0 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | 2-bromopropene | 56.7 mmol, 6.86 g | BrC(=C)C | C3H5Br
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 340 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 2.2 mmol, 2.54 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Isopropenylbenzonitrile | C(=C)(C)C=1C=C(C#N)C=CC1 | C10H9N
